US04229462
N-(2-Imidazolidinylidene)-N'-(2-methoxyphenyl)urea.hydrochloride, m.p. 197°-199.5° C., by reacting 2-iminoimidazolidine (prepared from 2-iminoimidazolidine hydroiodide and lithium hydride) and 2-methoxyphenyl isocyanate at about 5° to 10° C. to obtain a N-(2-imidazolidinylidene)-N'-(2-methoxyphenyl)urea product, followed by reacting the urea base with methanolic hydrogen chloride and recrystallizing first from methanol/2-propanol, then twice from methanol ether.

reactant | N-(2-Imidazolidinylidene)-N'-(2-methoxyphenyl)urea.hydrochloride | Cl.N1C(NCC1)=NC(=O)NC1=C(C=CC=C1)OC
reactant | 2-iminoimidazolidine | N=C1NCCN1 | C3H7N3
reactant | 2-methoxyphenyl isocyanate | COC1=C(C=CC=C1)N=C=O | C8H7NO2
product | N-(2-imidazolidinylidene)-N'-(2-methoxyphenyl)urea | N1C(NCC1)=NC(=O)NC1=C(C=CC=C1)OC | C11H14N4O2
